US07384968B2
The 5,7-difluoro-2-tetralone (0.3 mmol) was dissolved in 2.0 mL of anhydrous dichloromethane under N2 at rt. 2-(S)-Amino-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide (0.3 mmol) was then added to the reaction solution, followed by sodium triacetoxy borohydride (0.3 mmol) and acetic acid (0.3 mmol). The reaction was stirred at rt for 16 h. The crude solution was then diluted with 20 mL of EtOAc and washed with 20 mL of aqueous 1N NaOH solution and brine. The organic layer was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude products were purified through flash chromatography to give 2-(S)-(5,7-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide. LC-MS (retention time, M+1): 2.2 min, 408 [M+1].

reactant | 5,7-difluoro-2-tetralone | 0.3 mmol | FC1=C2CCC(CC2=CC(=C1)F)=O | C10H8F2O
reactant | 2-(S)-Amino-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide | 0.3 mmol | C(C)(C)C1=CN=C(S1)NC([C@H](CCC)N)=O | C11H19N3OS
reactant | sodium triacetoxy borohydride | 0.3 mmol | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.3 mmol | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 2-(S)-(5,7-Difluoro-1,2,3,4-tetrahydro-naphthalen-2-ylamino)-pentanoic acid (5-isopropyl-thiazol-2-yl)-amide | C(C)(C)C1=CN=C(S1)NC([C@H](CCC)NC1CC2=CC(=CC(=C2CC1)F)F)=O | C21H27F2N3OS
